US05434145
Dissolve the crude ethyl-[butyl-(toluene-4-sulfonyl)-amino]-acetate (10 mmol) in methanol (25 mL) and water (25 mL). Add sodium hydroxide (10 mmol) and stir the reaction at room temperature for 5 hours. Dilute the reaction with water (100 mL) and rinse with methylene chloride. Neutralize the aqueous with 1N hydrochloric acid and extract with methylene chloride (3×75 mL). Combine the organic extracts and rinse with water (100 mL), brine (100 mL), dry over anhydrous sodium sulfate, filter and concentrate under vacuum to provide [butyl-(toluene-4-sulfonyl)-amino]-acetic acid.

reactant | ethyl-[butyl-(toluene-4-sulfonyl)-amino]-acetate | 10 mmol | C(C)OC(CN(S(=O)(=O)C1=CC=C(C=C1)C)CCCC)=O | C15H23NO4S
reactant | sodium hydroxide | 10 mmol | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | [butyl-(toluene-4-sulfonyl)-amino]-acetic acid | C(CCC)N(S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)O | C13H19NO4S
